US03956279
To a vigorously stirred solution of pivampicillin hydrochloride (10 g) in water (50 ml) and diethyl ether (3.5 ml) was added a solution of sodium bicarbonate (2 g) in water (20 ml). The addition was complete after 20-30 min. and the mixture was allowed to stir for further 30 min. The crystalline product was filtered off, washed with water (60 ml) and diethyl ether (20 ml), and air-dried to yield pivampicillin with a melting point 114°-116° C.

reactant | pivampicillin hydrochloride | 10 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C.Cl
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | 3.5 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
product | pivampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C | C22H29N3O6S
